US05817849
Preparation of (tetramethylcyclopentadienyl)(diphenylmethyl)dimethylsilane
Potassium diphenylmethanite (4.91 g, 23.8 mmol) was slowly added to (tetramethylcyclopentadienyl)dimethylsilylchloride (5.11 g, 23.8 mmol) dissolved in about 65 mL of THF at about 25° C. A precipitate formed and the reaction mixture was stirred about 16 hours more at about 25° C. after which time the reaction mixture was filtered, the solvent was removed under reduced pressure and the residue was extracted with hexane and filtered. The solvent was removed under reduced pressure to give the desired product.

reactant | Potassium | 23.8 mmol, 4.91 g | [K] | K
reactant | (tetramethylcyclopentadienyl)dimethylsilylchloride | 23.8 mmol, 5.11 g | CC=1C(=C(C(C1)(C)[Si](C)(C)Cl)C)C | C11H19ClSi
reactant | THF | about 65 mL | C1CCOC1 | C4H8O
product | (tetramethylcyclopentadienyl)(diphenylmethyl)dimethylsilane | CC=1C(=C(C(C1)(C)[Si](C)(C)C(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C24H30Si
